US07569600B2
trans-4-Methylcyclohexyl carboxylic acid chloride was added to a solution of 5-cyclohex-1-enyl-3-[(3-oxo-octahydro-indolizin-7-yl)-amino]-thiophene-2-carboxylic acid methyl ester (698 mg, 1.86 mmol) and pyridine (166 μL, 2.05 mmol) in dry toluene (8 mL). The mixture was refluxed for 16 h, then it was brought to room temperature, additional amount of pyridine (0.2 mL) and MeOH (1 mL) were added. The mixture was diluted with dichloromethane, washed with brine; organic phase was dried over Na2SO4, concentrated and purified by column chromatography on silica gel using gradient 0-100% EtOAc in hexane to afford 592 mg (64%) of 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(3-oxo-octahydro-indolizin-7-yl)-amino]-thiophene-2-carboxylic acid methyl ester.

reactant | trans-4-Methylcyclohexyl carboxylic acid chloride | C[C@@H]1CC[C@H](CC1)C(=O)Cl | C8H13ClO
reactant | 5-cyclohex-1-enyl-3-[(3-oxo-octahydro-indolizin-7-yl)-amino]-thiophene-2-carboxylic acid methyl ester | 1.86 mmol, 698 mg | COC(=O)C=1SC(=CC1NC1CCN2C(CCC2C1)=O)C1=CCCCC1 | C20H26N2O3S
reactant | pyridine | 2.05 mmol, 166 μL | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
reactant | MeOH | 1 mL | CO | CH4O
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-cyclohex-1-enyl-3-[(trans-4-methyl-cyclohexanecarbonyl)-(3-oxo-octahydro-indolizin-7-yl)-amino]-thiophene-2-carboxylic acid methyl ester | 592 mg, 64% | COC(=O)C=1SC(=CC1N(C1CCN2C(CCC2C1)=O)C(=O)[C@@H]1CC[C@H](CC1)C)C1=CCCCC1 | C28H38N2O4S
